US04511573
To a suspension of 1.52 g of 3-(5-carboxypentyl)-5-chloro-1-methyl-2-(3-pyridyl)indole in 50 ml of toluene under nitrogen is added dropwise at room temperature 0.31 ml of thionyl chloride. The resulting mixture is heated under reflux for 1 hour. An additional 0.10 ml portion of thionyl chloride is added and the solution is stirred at room temperature overnight. The resulting suspension is evaporated to dryness to give 3-(5-chlorocarbonylpentyl)-5-chloro-1-methyl-2-(3-pyridyl)indole. A suspension of the acid chloride in 20 ml of concentrated ammonium hydroxide is stirred at room temperature overnight. The resulting solid is filtered off to yield 3-(5-carbamoylpentyl)-5-chloro-1-methyl-2-(3-pyridyl)indole.

reactant | 3-(5-carboxypentyl)-5-chloro-1-methyl-2-(3-pyridyl)indole | 1.52 g | C(=O)(O)CCCCCC1=C(N(C2=CC=C(C=C12)Cl)C)C=1C=NC=CC1 | C20H21ClN2O2
reactant | thionyl chloride | 0.31 ml | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(5-chlorocarbonylpentyl)-5-chloro-1-methyl-2-(3-pyridyl)indole | ClC(=O)CCCCCC1=C(N(C2=CC=C(C=C12)Cl)C)C=1C=NC=CC1 | C20H20Cl2N2O
